US05167709
Similar to the procedure described in Production Examples 1 and 2, a 5% by weight aqueous solution of barium chloride was added dropwise to a homogeneous solution of N-lauroyltaurine sodium salt. Thus, the target compound N-lauroyltaurine barium was obtained as white crystals (yield: 98.7%).

reactant | barium chloride | [Cl-].[Ba+2].[Cl-]
reactant | N-lauroyltaurine sodium salt | [Na+].C(CCCCCCCCCCC)(=O)NCCS(=O)(=O)[O-]
product | N-lauroyltaurine barium | [Ba].C(CCCCCCCCCCC)(=O)NCCS(=O)(=O)O | InChI=1S/C14H29NO4S.Ba/c1-2-3-4-5-6-7-8-9-10-11-14(16)15-12-13-20(17,18)19;/h2-13H2,1H3,(H,15,16)(H,17,18,19);
